US06806230B1
A few drops of concentrated sulfuric acid were added to a methanol solution of 2.00 g (5.32 mmol) of 5-(1-{[2-(4-chlorophenyl)-propionyl]methylamino}-2-methylpropyl)-pyrimidine-4-carboxylic acid, followed by heating and refluxing for 5 hours. After completion of the reaction, water was added, followed by extraction with ethyl acetate, and the extract was washed with an aqueous sodium chloride solution, dried over magnesium sulfate and concentrated, and the obtained oily product was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:1 to ethyl acetate) to obtain 0.59 g (yield: 28%) of 5-(1-{[2-(4-chlorophenyl)-propionyl]methylamino}-2-methylpropyl)-pyrimidine-4-carboxylic acid methyl ester (diastereomer A-isomer) as colorless oily product.

reactant | methanol | CO | CH4O
reactant | 5-(1-{[2-(4-chlorophenyl)-propionyl]methylamino}-2-methylpropyl)-pyrimidine-4-carboxylic acid | 5.32 mmol, 2.00 g | ClC1=CC=C(C=C1)C(C(=O)CNC(C(C)C)C=1C(=NC=NC1)C(=O)O)C | C19H22ClN3O3
catalyst | sulfuric acid | A few drops | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 5-(1-{[2-(4-chlorophenyl)-propionyl]methylamino}-2-methylpropyl)-pyrimidine-4-carboxylic acid methyl ester | 0.59 g, yield: 28% | COC(=O)C1=NC=NC=C1C(C(C)C)NCC(C(C)C1=CC=C(C=C1)Cl)=O | C20H24ClN3O3
